* Block 00: Error Amplifier — Two-Stage Miller OTA
* PVDD 5V LDO Regulator — SkyWater SKY130A
*
* Topology: Two-stage Miller-compensated OTA
*   Stage 1: PMOS diff pair + NMOS mirror load → ~40-50 dB
*   Stage 2: NMOS common-source + PMOS load → ~30-40 dB
*   Miller cap (Cc) + nulling resistor (Rc) for compensation
*   Total gain > 60 dB, drives 100pF Cgs_pass load
*
* All HV 5V/10.5V devices. Dimensions in METERS.
* ibias: 1uA INTO ibias pin, sunk to GND internally.
*
.subckt error_amp vref vfb vout_gate pvdd gnd ibias en

* ================================================================
* Enable
* ================================================================
XMen   ibias_en en  ibias   gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=1e-6 m=1
XMpu   vout_gate en pvdd    pvdd sky130_fd_pr__pfet_g5v0d10v5 w=20e-6 l=1e-6 m=1

* ================================================================
* Bias: NMOS reference (1uA)
* ================================================================
XMbn0  ibias_en ibias_en gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=8e-6 m=1

* ================================================================
* Bias: PMOS tail (100uA — increased for fast transient slew)
* ================================================================
* Mirror ratio 200:1 → Itail=200µA. Balance of speed and Iq.
XMbn_pb pb_tail ibias_en gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=8e-6 m=200
XMbp0   pb_tail pb_tail  pvdd pvdd sky130_fd_pr__pfet_g5v0d10v5 w=20e-6 l=4e-6 m=4

* ================================================================
* Stage 1: PMOS diff pair + NMOS current mirror load
* ================================================================
* Tail current source: 100uA
XMtail tail_s pb_tail pvdd pvdd sky130_fd_pr__pfet_g5v0d10v5 w=20e-6 l=4e-6 m=4

* PMOS diff pair: M1(+)=vref, M2(-)=vfb
* Large W*L for matching; W=80u L=4u m=2 → eff W=160um, WL=640um^2
XM1 d1  vref tail_s pvdd sky130_fd_pr__pfet_g5v0d10v5 w=80e-6 l=4e-6 m=2
XM2 d2  vfb  tail_s pvdd sky130_fd_pr__pfet_g5v0d10v5 w=80e-6 l=4e-6 m=2

* NMOS current mirror load: left=diode, right=output
* Long L for high ro and gain
XMn_l d1 d1  gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=8e-6 m=2
XMn_r d2 d1  gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=8e-6 m=2

* ================================================================
* Stage 2: NMOS common-source + PMOS active load
* ================================================================
* CS amplifier: gate=d2 (stage 1 output), drain=vout_gate
* Sized to match PMOS load current at d2 ~ 0.9V
XMcs vout_gate d2  gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=1e-6 m=1

* PMOS current source load: mirrors from pb_tail
XMp_ld vout_gate pb_tail pvdd pvdd sky130_fd_pr__pfet_g5v0d10v5 w=20e-6 l=4e-6 m=8

* ================================================================
* Miller compensation: Cc + Rc from vout_gate to d2
* ================================================================
* Cc = 30pF (reduced from 98pF for ~3x faster transient response)
* Slew rate: SR = Itail/Cc = 100uA/30pF = 3.3V/us
Cc d2 comp_mid 30p
* Rc = 25k nulling resistor (adjusted for new Cc)
Rc comp_mid vout_gate 25k

.ends error_amp
