* Block 00: Error Amplifier — BVDD-Output Two-Stage Cascode OTA (v7)
* PVDD 5V LDO Regulator — SkyWater SKY130A
*
* ARCHITECTURE:
*   Stage 1: PMOS diff pair (PVDD-powered) + NMOS mirror load
*     M1(+)=vref on d1, M2(-)=vfb on d2
*     d1=diode, d2=output (standard inverting output)
*
*   Stage 2: PFET CS + cascode PFET (BVDD-powered) + NFET current source
*     PFET CS: gate=d2, source=bvdd → output swings in BVDD domain
*     Cascode PFET: shields CS from BVDD variations → high PSRR
*     NFET current source: 50µA, mirrors from ibias
*     Output: vout_gate drives pass device gate DIRECTLY (no level shifter)
*
*   Polarity check:
*     vfb > vref → I_M2 decreases, I_M1 increases
*     → mirror sinks more at d2 than M2 supplies → d2 FALLS
*     → PFET CS: Vsg = bvdd - d2 INCREASES → conducts MORE → vout_gate RISES
*     → gate rises → Vsg_pass = bvdd - gate DECREASES → less current → PVDD drops ✓
*
*   Miller comp (Cc+Rc) from d2 to vout_gate (across Stage 2)
*
* Ports: vref vfb vout_gate pvdd gnd ibias en bvdd
*
.subckt error_amp vref vfb vout_gate pvdd gnd ibias en bvdd

* ================================================================
* Enable: XMpu pulls gate to BVDD when disabled (pass device OFF)
* ================================================================
XMen   ibias_en en  ibias   gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=1e-6 m=1
XMpu   vout_gate en bvdd    bvdd sky130_fd_pr__pfet_g5v0d10v5 w=4e-6 l=2e-6 m=1

* ================================================================
* Bias: NMOS reference (1µA from ibias)
* ================================================================
XMbn0  ibias_en ibias_en gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=2e-6 l=8e-6 m=1

* ================================================================
* Bias: PMOS tail from BVDD (~40µA)
* ================================================================
XMbn_pb pb_tail ibias_en gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=8e-6 m=4
XMbp0   pb_tail pb_tail  bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=20e-6 l=4e-6 m=4

* ================================================================
* Stage 1: PMOS diff pair + NMOS current mirror load (BVDD domain)
* Running from BVDD gives full headroom independent of PVDD
* ================================================================
XMtail tail_s pb_tail bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=20e-6 l=4e-6 m=4
XM1 d1  vref tail_s bvdd sky130_fd_pr__pfet_g5v0d10v5 w=80e-6 l=4e-6 m=2
XM2 d2  vfb  tail_s bvdd sky130_fd_pr__pfet_g5v0d10v5 w=80e-6 l=4e-6 m=2
XMn_l d1 d1  gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=8e-6 m=2
XMn_r d2 d1  gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=8e-6 m=2

* ================================================================
* Stage 2: PFET CS + cascode (BVDD-powered) + NFET current source
*
*   XMcs_p: CS PFET, gate=d2, source=bvdd
*   XMcas_p: Cascode PFET, gate=cas_bias, shields CS from BVDD
*   XMcs_n: NFET current source, 50µA
*
*   Cascode bias: cas_bias = 0.8 × BVDD (resistive divider)
*     At BVDD=7.0V: cas_bias=5.6V, Vsg_cas=1.4V (well above Vth)
*     At BVDD=5.4V: cas_bias=4.32V, Vsg_cas=1.08V (above Vth) ✓
* ================================================================
* Stage 2: NFET CS amplifier + PFET current source load (BVDD-powered)
* XMcs_n: NFET gain device, gate=d2, amplifies Stage 1 output
* XMcs_p: PFET load, mirrors ~46µA from pb_tail bias chain
* Output swings 0.5V to ~6.4V — covers gate range for regulation
XMcs_n  vout_gate d2       gnd     gnd  sky130_fd_pr__nfet_g5v0d10v5 w=20e-6 l=2e-6
XMcs_p  vout_gate pb_tail  bvdd    bvdd sky130_fd_pr__pfet_g5v0d10v5 w=20e-6 l=4e-6 m=4

* ================================================================
* Miller compensation: Cc + Rc from d2 to vout_gate
* ================================================================
* Miller comp minimized: 2pF + 5k (just enough for EA stability)
Cc d2 comp_mid 2p
Rc comp_mid vout_gate 5k

.ends error_amp
